US06667322B2
To a solution of 1-(benzyloxy)-2-naphthaldehyde (7.00 g, 26.7 mmol) in methanol (250 mL) at 0° C. was added sodium borohydride (1.51 g, 40.0 mmol) and the reaction mixture was allowed to stir at room temperature for 24 h. The solvent was removed in vacuo to give a crude solid which was partitioned between ethyl acetate (300 mL) and water (300 mL). The organic layer was separated and washed with water (300 mL), aqueous sodium chloride (300 mL), dried (magnesium sulfate) and filtered through a plug of silica (10 cm×5 cm). The solvent was removed in vacuo to give 6.98 g (99%) of [1-(benzyloxy)-2-naphthyl]methanol as white crystalline solid. Rf=0.36 (silica, dichloromethane:hexanes 3:2); mp 85-87° C. Anal. Calcd. for C18H16O2: C, 81.24; H, 6.14. Found: C, 81.03; H, 5.98.

reactant | 1-(benzyloxy)-2-naphthaldehyde | 26.7 mmol, 7.00 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC=C12)C=O | C18H14O2
reactant | sodium borohydride | 40.0 mmol, 1.51 g | [BH4-].[Na+]
solvent | methanol | 250 mL | CO | CH4O
product | [1-(benzyloxy)-2-naphthyl]methanol | 6.98 g, 99% | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC=C12)CO | C18H16O2
